US07989454B2
4-[3-{6-[3-Bromo-5-(2-difluoromethoxy-benzylcarbamoyl)-phenoxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester
The title compound was prepared by the same method as 4-{3-[6-(3-bromo-5-dimethylcarbamoyl-phenoxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy}-butyric acid ethyl ester starting from 3-bromo-5-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbamoyl-propoxy)-phenyl]-hexyloxy}-benzoic acid (900 mg, 1.48 mmol), PyBroP (828 mg, 1.77 mmol), 2-(difluoromethoxy)-benzylamine (306 mg, 1.77 mmol) and DIPEA (515 uL, 2.96 mmol) in dichloromethane (30 mL) to obtain 4-[3-{6-[3-bromo-5-(2-difluoromethoxy-benzylcarbamoyl)-phenoxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester (960 mg, 85%) as a colorless oil

reactant | 4-{3-[6-(3-bromo-5-dimethylcarbamoyl-phenoxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy}-butyric acid ethyl ester | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCOC1=CC(=CC(=C1)C(N(C)C)=O)Br)CCC(=O)OCC)=O | C32H44BrNO7
reactant | 3-bromo-5-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbamoyl-propoxy)-phenyl]-hexyloxy}-benzoic acid | 1.48 mmol, 900 mg | BrC=1C=C(C(=O)O)C=C(C1)OCCCCCCC1=C(C(=CC=C1)OCCCC(NOCC)=O)CCC(=O)OCC | C30H40BrNO8
reactant | PyBroP | 1.77 mmol, 828 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | 2-(difluoromethoxy)-benzylamine | 1.77 mmol, 306 mg | FC(OC1=C(CN)C=CC=C1)F | C8H9F2NO
reactant | DIPEA | 2.96 mmol, 515 uL | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-[3-{6-[3-bromo-5-(2-difluoromethoxy-benzylcarbamoyl)-phenoxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester | 960 mg, 85% | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCOC1=CC(=CC(=C1)C(NCC1=C(C=CC=C1)OC(F)F)=O)Br)CCC(=O)OCC)=O | C38H46BrF2NO8
